US07585886B2
A 2.0 ml portion of 4 M hydrogen chloride/1,4-dioxane was added to a 5.0 ml ethanol solution of 200 mg of 6-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoic acid hydrochloride and stirred at room temperature for 1Hour. By evaporating the solvent and crystallizing the residue from ethyl acetate-hexane, 154 mg of ethyl 6-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoate hydrochloride was obtained as a colorless solid.

reactant | hydrogen chloride 1,4-dioxane | 4 M | Cl.O1CCOCC1
reactant | 6-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoic acid hydrochloride | 200 mg | Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(CCCCC(=O)O)=O
solvent | ethanol | 5.0 ml | C(C)O | C2H6O
product | ethyl 6-[(3S,4S)-3-({[(1R)-1-(1-naphthyl)ethyl]amino}methyl)-4-phenylpyrrolidin-1-yl]-6-oxohexanoate hydrochloride | 154 mg | Cl.C1(=CC=CC2=CC=CC=C12)[C@@H](C)NC[C@H]1CN(C[C@@H]1C1=CC=CC=C1)C(CCCCC(=O)OCC)=O | InChI=1S/C31H38N2O3.ClH/c1-3-36-31(35)19-10-9-18-30(34)33-21-26(29(22-33)25-12-5-4-6-13-25)20-32-23(2)27-17-11-15-24-14-7-8-16-28(24)27;/h4-8,11-17,23,26,29,32H,3,9-10,18-22H2,1-2H3;1H/t23-,26+,29-;/m1./s1
